US06372740B1
Preparation of 7,9-dihydro-9-methyl-2-phenyl-8H-purin-8-one
To a mixture of 4-methylamino-2-phenylpyrimidine-5-carboxylic acid (7 g) and dimethylformamide (50 ml) is added triethylamine (3.1 g) at room temperature, and the mixture is stirred for 10 minutes, and thereto is added diphenylphosphoryl azide (8.4 g) at the same temperature. The reaction mixture is stirred at 120° C. for four hours, and concentrated under reduced pressure. The residue is poured into ice-water, and the precipitates are collected by filtration, washed with water, washed with ethanol, and recrystallized from chloroform to give the desired compound (5 g).

reactant | 4-methylamino-2-phenylpyrimidine-5-carboxylic acid | 7 g | CNC1=NC(=NC=C1C(=O)O)C1=CC=CC=C1 | C12H11N3O2
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | diphenylphosphoryl azide | 8.4 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | triethylamine | 3.1 g | C(C)N(CC)CC | C6H15N
product | 7,9-dihydro-9-methyl-2-phenyl-8H-purin-8-one | 5 g | CN1C2=NC(=NC=C2NC1=O)C1=CC=CC=C1 | C12H10N4O
